US05364856
To a solution of 5.0 g (13.1 mmol) of (4S)-6-iodo-4-(di-n-propylamino)-1,3,4,5-tetrahydrobenz[cd]indole in 250 ml of acetonitrile was added 3.5 g (37 mmol) of 2-hydroxypyridine, 16.9 g (122 mmol) of powdered potassium carbonate, and 0.30 g (0.2 6 mmol ) of tetrakis (triphenylphosphine ) palladium. The resultant mixture was heated at 65° C. under a carbon monoxide atmosphere for 14 hours. The cooled mixture was then treated with 2 ml of hydrazine hydrate and stirred for another 15 hours. After filtering, the mixture was concentrated in vacuo to provide a residue. This residue was taken up in methylene chloride and extracted with aqueous tartaric acid solution. The aqueous layer was basified with 1M sodium hydroxide solution and the product was extracted into methylene chloride. Evaporation of solvent in vacuo left an oily solid which, after thorough washing with a 1:2 mixture of toluene and hexane, afforded 0.60 g of (4R)-4-(di-n-propylamino)- 1,3,4,5-tetrahydrobenz[cd]indole-6-carboxylic hydrazide. m.p. 199°-201° C.

reactant | (4S)-6-iodo-4-(di-n-propylamino)-1,3,4,5-tetrahydrobenz[cd]indole | 13.1 mmol, 5.0 g | IC1=C2C=3C(=CNC3C=C1)C[C@@H](C2)N(CCC)CCC | C17H23IN2
reactant | 2-hydroxypyridine | 37 mmol, 3.5 g | OC1=NC=CC=C1 | C5H5NO
reactant | potassium carbonate | 122 mmol, 16.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrazine hydrate | 2 ml | O.NN
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | tetrakis (triphenylphosphine ) palladium | 6 mmol, 0.30 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (4R)-4-(di-n-propylamino)- 1,3,4,5-tetrahydrobenz[cd]indole-6-carboxylic hydrazide | 0.60 g | C(CC)N([C@@H]1CC2=C3C(=CNC3=CC=C2C(=O)NN)C1)CCC | C18H26N4O
